US08871756B2
1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-3-methylpyrrolidin-3-amine
A mixture of N-{1-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-3-methylpyrrolidin-3-yl}acetamide (102 mg, 0.21 mmol) and hydrochloric acid (2 N, 120 mL) was heated with stirring at 100° C. for 16 hours. After being cooled to room temperature, the reaction mixture was adjusted to pH 9 with a saturated aqueous solution of potassium carbonate and exacted with dichloromethane (200 mL×3). The combined organic layers were dried over sodium sulfate, and concentrated in vacuo. The residue was purified by preparative HPLC to afford 2.6 mg of the product (yield was 2.8%). MS obsd. (ESI+) [(M+H)+] 437, 1H NMR (400 MHz, CD3OD) δ ppm 8.10-8.08 (d, J=7.6 Hz, 1 H), 8.01 (s, 1 H), 7.85-7.83 (d, J=7.6 Hz, 1 H), 7.76-7.71 (m, 2 H), 7.60-7.58 (m, 2 H), 5.92 (s, 1 H), 5.31 (s, 2 H), 4.51 (s, 2 H), 4.22-3.97 (m, 4 H), 3.75-3.73 (d, J=8 Hz, 2 H), 2.47 (s, 3 H), 3.11-3.08 (m, 2 H), 2.47-2.31 (m, 2 H), 1.63 (s, 3 H).

reactant | N-{1-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-3-methylpyrrolidin-3-yl}acetamide | 0.21 mmol, 102 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2CC(CC2)(C)NC(C)=O)C)=O | C26H30N4O3S
reactant | hydrochloric acid | 2 N, 120 mL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-3-methylpyrrolidin-3-amine | 2.6 mg, yield was 2.8% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2CC(CC2)(N)C)C)=O | C24H28N4O2S
